US06294503B1
Preparation of 3-[5-(2-naphthoyl)amino-7-fluoro-4-methyl-2H-1,4-benzoxazine-3(4H)-on-6-yl]-1-methyl-6-trifluoromethyl-2,4-(1H, 3H)-pyrimidinedione (Compound No.1-12)
3-[5-Amino-7-fluoro-4-methyl-2H-1,4-benzoxazine-3(4H)-on-6-yl]-1-methyl-6-trifluoromethyl-2,4-(1H, 3H)-pyrimidinedione (0.49 g) and 2-naphthoyl chloride (0.26 g) were mixed in dioxane (35 ml), the resulting mixture was refluxed for 7 hr. After evaporation, the residue was purified by silica gel column (hexane to 30% and 50% ethyl acetate) to yield the title compound (0.3 g).

reactant | 3-[5-Amino-7-fluoro-4-methyl-2H-1,4-benzoxazine-3(4H)-on-6-yl]-1-methyl-6-trifluoromethyl-2,4-(1H, 3H)-pyrimidinedione | 0.49 g | NC1=C(C(=CC2=C1N(C(CO2)=O)C)F)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C15H12F4N4O4
reactant | 2-naphthoyl chloride | 0.26 g | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
solvent | dioxane | 35 ml | O1CCOCC1 | C4H8O2
product | 3-[5-(2-naphthoyl)amino-7-fluoro-4-methyl-2H-1,4-benzoxazine-3(4H)-on-6-yl]-1-methyl-6-trifluoromethyl-2,4-(1H, 3H)-pyrimidinedione | 0.3 g | C1=C(C=CC2=CC=CC=C12)C(=O)NC1=C(C(=CC2=C1N(C(CO2)=O)C)F)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C26H18F4N4O5
